US05234928
1-(4-Bromo-2-fluorophenyl)methyl-6-chloro-1,4-dihydro-2,4-dioxo-3(2H)-quinazolineacetic acid.
Into 280 ml of concentrated hydrochloric acid and 140 ml of acetic acid were suspended 18.0 g of ethyl 1-(4-bromo-2-fluorophenyl)methyl-6-chloro-1,4-dihydro-2,4-dioxo-3(2H)quinazolineacetate, and, after added 1 ml of concentrated sulfuric acid, the mixture was refluxed for 3 hours. After cooling, the reaction liquor was poured into 600 ml of ice water and the deposits were collected by filtration. They were recrystallized from ethanol to obtain 15.0 g of title compound. m.p. 189° C.

reactant | hydrochloric acid | 280 ml | Cl | ClH
reactant | ethyl 1-(4-bromo-2-fluorophenyl)methyl-6-chloro-1,4-dihydro-2,4-dioxo-3(2H)quinazolineacetate | 18.0 g | BrC1=CC(=C(C=C1)CN1C(N(C(C2=CC(=CC=C12)Cl)=O)CC(=O)OCC)=O)F | C19H15BrClFN2O4
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 140 ml | C(C)(=O)O | C2H4O2
product | 1-(4-Bromo-2-fluorophenyl)methyl-6-chloro-1,4-dihydro-2,4-dioxo-3(2H)-quinazolineacetic acid | 15.0 g | BrC1=CC(=C(C=C1)CN1C(N(C(C2=CC(=CC=C12)Cl)=O)CC(=O)O)=O)F | C17H11BrClFN2O4
